US04935437
A solution of 2,2'-(5-hydroxymethyl-1,3-phenylene)di-(2-methylpropiononitrile), (3.8 g) and pyridine (1.58 g) in dichloromethane (10 ml) was stirred, and cooled in an ice bath, while thionyl chloride (3 g) was added over 10 minutes. The solution was kept at room temperature for 2 h and then heated under reflux for 1 h and evaporated to dryness under reduced pressure The residue was partitioned between water and ethyl acetate and the organic phase was separated, dried and evaporated to dryness under reduced pressure to give 2,2'-(5-chloromethyl-1,3-phenylene)di(2-methylpropiononitrile), which was used without further purification.

reactant | 2,2'-(5-hydroxymethyl-1,3-phenylene)di-(2-methylpropiononitrile) | 3.8 g | OCC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C15H18N2O
reactant | pyridine | 1.58 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 3 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,2'-(5-chloromethyl-1,3-phenylene)di(2-methylpropiononitrile) | ClCC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C15H17ClN2
